US04829063
11 g (0.1 mol) of methanesulphonyl chloride are added dropwise to 14 g (0.074 mol) of 2-methyl-3-β-naphthylpropanol (crude) in 80 ml of absolute pyridine at 0° C., with stirring, the mixture is stirred at room temperature for a further 16 hours. When the addition has ended, excess pyridine is removed by distillation in vacuo, the residue is taken up in water, the mixture is extracted several times with methylene chloride, the extract is dried over sodium sulphate and the solvent is removed in vacuo. 13.6 g (66% of theory) of 1-methanesulphonyloxy-2-methyl-3-β-naphthyl-propane are obtained as an oil.

reactant | methanesulphonyl chloride | 0.1 mol, 11 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-methyl-3-β-naphthylpropanol | 0.074 mol, 14 g | CC(CO)CC1=CC2=CC=CC=C2C=C1 | C14H16O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 1-methanesulphonyloxy-2-methyl-3-β-naphthyl-propane | 13.6 g, 66% | CS(=O)(=O)OCC(CC1=CC2=CC=CC=C2C=C1)C | C15H18O3S
